US07015218B1
1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(N-(2-hydroxyethyl)-N-methylamino)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (0.73 g) and 5-amino-2-[4-[N-(2-hydroxyethyl)-N-methylamino]piperidin-1-yl]benzonitrile (0.65 g), the title compound (0.2 g) was obtained, melting point: 186° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 0.73 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 5-amino-2-[4-[N-(2-hydroxyethyl)-N-methylamino]piperidin-1-yl]benzonitrile | 0.65 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N(C)CCO | C15H22N4O
product | 1-(4-Chlorophenyl)-N-{3-cyano-4-[4-(N-(2-hydroxyethyl)-N-methylamino)piperidin-1-yl]phenyl}-5-methylpyrazole-4-carboxamide | 0.2 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N(C)CCO)C#N | C26H29ClN6O2
